US06737280B1
9-Ethyl-4-methoxy-1-methyl-6,7,8,9-tetrahydro-1H-pyrido[2,3-g]quinol-2-one
2 g (8.2 mmol) of 9-ethyl-4-hydroxy-6,7,8,9-tetrahydro-1H-pyrido[2,3-g]quinol-2-one are suspended in 25 ml of dimethylformamide and treated with 6.7 g (0.12 mol) of potassium hydroxide. 8.6 g (0.07 mol) of dimethyl sulfate are added dropwise thereto at at most 60° C. (cooling with ice/sodium chloride bath). The suspension is discharged into 200 ml of water. A well filterable precipitate is formed, which is filtered off with suction and dried.

reactant | 9-ethyl-4-hydroxy-6,7,8,9-tetrahydro-1H-pyrido[2,3-g]quinol-2-one | 8.2 mmol, 2 g | C(C)C1CCNC=2C=C3C(=CC12)NC(C=C3O)=O | C14H16N2O2
reactant | potassium hydroxide | 0.12 mol, 6.7 g | [OH-].[K+]
reactant | dimethyl sulfate | 0.07 mol, 8.6 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 200 ml | O | H2O
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 9-Ethyl-4-methoxy-1-methyl-6,7,8,9-tetrahydro-1H-pyrido[2,3-g]quinol-2-one | C(C)C1CCNC=2C=C3C(=CC12)N(C(C=C3OC)=O)C | C16H20N2O2
